US06020517
By a method similar to Example 11, a reaction was carried out using 2,4,5,6-tetrafluoroisophthalonitrile, instead of 3,4,5,6-tetrafluorophthalonitrile. After 5 hours, the reaction solution was analyzed by gas chromatography, whereupon the conversion of 2,4,5,6-tetrafluoroisophthalonitrile was found to be 36% and the yield of 2,3,4,6-tetrafluorobenzonitrile (based on 2,4,5,6-tetrafluoroisophthalonitrile) was 20%. At the same time, 1.1 mmol of α-methylbenzylcyanide was produced. This corresponded to 0.35 times molar amount relative to the production of 2,3,4,6-tetrafluorobenzonitrile.

reactant | 2,4,5,6-tetrafluoroisophthalonitrile | FC1=C(C#N)C(=C(C(=C1C#N)F)F)F | C8F4N2
reactant | 3,4,5,6-tetrafluorophthalonitrile | FC1=C(C(C#N)=C(C(=C1F)F)F)C#N | C8F4N2
reactant | 2,3,4,6-tetrafluorobenzonitrile | FC1=C(C#N)C(=CC(=C1F)F)F | C7HF4N
product | α-methylbenzylcyanide | 1.1 mmol | CC(C1=CC=CC=C1)C#N | C9H9N
